US08729068B2
To a mixture of 320 mg of 2-(trimethylsilyl)ethyl 3-{[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoate and 5 mL of acetonitrile were added 203 mg of potassium carbonate and 0.119 mL of iodoethane. After stirring at 70° C. for 5 hours, 102 mg of potassium carbonate and 0.059 mL of iodoethane were added thereto, followed by stirring at 70° C. for 10 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 334 mg of a 2-(trimethylsilyl)ethyl 3-{ethyl[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoate as a colorless oily substance. ESI+: 464

reactant | 2-(trimethylsilyl)ethyl 3-{[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoate | 320 mg | COC(=O)C1=CC=C(C=C1)NS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C20H25NO6SSi
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | potassium carbonate | 203 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.119 mL | ICC | C2H5I
reactant | potassium carbonate | 102 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.059 mL | ICC | C2H5I
solvent | water | O | H2O
product | 2-(trimethylsilyl)ethyl 3-{ethyl[4-(methoxycarbonyl)phenyl]sulfamoyl}benzoate | 334 mg | C(C)N(S(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)C1=CC=C(C=C1)C(=O)OC | C22H29NO6SSi
